US06759414B2
A. N-(5-Chloropyridin-2-yl)-3-methoxy-2-nitrobenzamide.
To a stirring suspension of 3-methoxy-2-nitrobenzoic acid (14.5 g, 73.5 mmol) in dichloromethane (100 mL) was added a couple of drops of N,N-dimethylformamide followed by oxalyl chloride (6.7 mL, 77.1 mmol). The reaction was stirred at room temperature overnight and the residue transferred slowly to an ice cold solution of 2-amino-5-chloropyridine (9 g, 70 mmol) and pyridine (20 mL) in dichloromethane (200 mL). The reaction was stirred overnight, treated with water, and concentrated. The resulting mixture was treated with ethyl acetate, washed consecutively with aqueous citric acid, saturated aqueous sodium bicarbonate, dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude product was purified by recrystallization from toluene to give 17 g (79%) of a white solid.

reactant | 3-methoxy-2-nitrobenzoic acid | 73.5 mmol, 14.5 g | COC=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-] | C8H7NO5
reactant | oxalyl chloride | 77.1 mmol, 6.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-amino-5-chloropyridine | 70 mmol, 9 g | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | a couple of drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-(5-Chloropyridin-2-yl)-3-methoxy-2-nitrobenzamide | 17 g, 79% | ClC=1C=CC(=NC1)NC(C1=C(C(=CC=C1)OC)[N+](=O)[O-])=O | C13H10ClN3O4
